US09359375B2
To a solution of (S)-benzyl 1-(1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)propyl)cyclopropylcarbamate (60 mg, 0.15 mmol) in dioxane (1 mL) was added m-toluidine (19 mg, 0.18 mmol), BINAP (18.7 mg, 0.03 mmol), Pd(OAc)2 (6.7 mg, 0.03 mmol) and Cs2CO3 (146 mg, 0.45 mmol). After degassed with Argon, the mixture was heated at 80° C. for 15 h. The mixture was diluted with dioxane, precipitate was filtered off, filter cake was washed with ACN, the filtrate was concentrated and purified by column to give of (S)-benzyl 1-(1-(5-cyano-3-fluoro-6-(m-tolylamino)pyridin-2-ylamino)propyl)cyclopropylcarbamate (55 mg).

reactant | (S)-benzyl 1-(1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)propyl)cyclopropylcarbamate | 0.15 mmol, 60 mg | ClC1=C(C=C(C(=N1)N[C@@H](CC)C1(CC1)NC(OCC1=CC=CC=C1)=O)F)C#N | C20H20ClFN4O2
reactant | m-toluidine | 0.18 mmol, 19 mg | NC1=CC(=CC=C1)C | C7H9N
reactant | BINAP | 0.03 mmol, 18.7 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 0.45 mmol, 146 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.03 mmol, 6.7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-benzyl 1-(1-(5-cyano-3-fluoro-6-(m-tolylamino)pyridin-2-ylamino)propyl)cyclopropylcarbamate | 55 mg | C(#N)C=1C=C(C(=NC1NC=1C=C(C=CC1)C)N[C@@H](CC)C1(CC1)NC(OCC1=CC=CC=C1)=O)F | C27H28FN5O2
